US08247595B2
To a solution of 1.0 g of 6-chloro-1-hexyne and 1.7 g of (3,3,3-trifluoropropylsulfonyl)acetonitrile in 20 ml of dimethyl sulfoxide, 1.2 g of potassium carbonate was added at room temperature. The mixture was stirred at 60° C. for 4 hours and then at 90° C. for 2 hours, and then allowed to stand near room temperature. To the reaction mixture, 10% hydrochloric acid was added, followed by extraction with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The obtained residue was subjected to silica gel chromatography to obtain 0.70 g of 2-(3,3,3-trifluoropropylsulfonyl)-7-octynenitrile (hereinafter referred to as the present compound (23)).

reactant | 6-chloro-1-hexyne | 1.0 g | ClCCCCC#C | C6H9Cl
reactant | (3,3,3-trifluoropropylsulfonyl)acetonitrile | 1.7 g | FC(CCS(=O)(=O)CC#N)(F)F | C5H6F3NO2S
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 2-(3,3,3-trifluoropropylsulfonyl)-7-octynenitrile | 0.70 g | FC(CCS(=O)(=O)C(C#N)CCCCC#C)(F)F | C11H14F3NO2S
